US07452961B2
Under an inert atmosphere, 90 g of 3-bromophenol was dissolved in 600 ml of ethanol. Further, 39 g potassium hydroxide was added to this and the mixture was heated up to 70° C. for dissolution thereof. From a dropping funnel, 126 g of 3,7-dimethylbromooctane was dropped over 15 minutes. After completion of dropping, the mixture was heated to 84° C. and stirred for about 22 hours under heat. After completion of heating, the mixture was left to cool to room temperature. The reaction solution was bisected, 500 ml of water was added to respective portions, then, ethanol was distilled off by an evaporator. The solutions after distilling off of ethanol were combined and trisected, 300 ml of ethyl acetate was added to respective portions to cause liquid separation, and the organic layers were washed with 200 ml of water twice. The organic layers were combined and the solvent was distilled off by an evaporator, then, the residue was dried by heating at 90° C. for 5 hours under vacuum by a rotary pump. About 150 g of 3-(3,7-dimethyloctyloxy)-bromobenzene was obtained as an oily product.

reactant | 3-bromophenol | 90 g | BrC=1C=C(C=CC1)O | C6H5BrO
reactant | potassium hydroxide | 39 g | [OH-].[K+]
reactant | 3,7-dimethylbromooctane | 126 g | CC(CCBr)CCCC(C)C | C10H21Br
reactant | water | 500 ml | O | H2O
solvent | ethanol | 600 ml | C(C)O | C2H6O
product | 3-(3,7-dimethyloctyloxy)-bromobenzene | 150 g | CC(CCOC=1C=C(C=CC1)Br)CCCC(C)C | C16H25BrO
